US06492416B1
To a stirred solution of 2,2-diethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone (4.5 g) in 200 ml chloroform with 3 ml acetic acid, was added dropwise 1.5 ml bromine at 0° C. The solution was then allowed to warm to room temperature and was stirred for another 4 hours. The reaction was quenched by adding saturated aqueous sodium thiosulfate until the characteristic color of bromine disappeared. The reaction mixture was then extracted with dichloromethane (100 ml×2) and the organic layer was dried over anhydrous magnesium sulfate. After the magnesium sulfate was removed by filtration, the filtrate was concentrated under reduced pressure. The resulting crude product was purified by recrystallization from hexane and ethylacetate to afford 4.5 g of 4-bromo-2,2-diethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone. mp: 130-131° C. NMR: δ0.88 (t, J=7.5 Hz, 6H), 1.95 (q, J=7.5 Hz, 4H), 3.11 (s, 3H), 8.12 (d, J=8.7 Hz, 2H), 8.42 (d, J=8.7 Hz, 2H). IR (cm−1): 2973, 1705, 1583, 1558, 1315, 1160, 1084.

reactant | 2,2-diethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 4.5 g | C(C)C1(OC(=CC1=O)C1=CC=C(C=C1)S(=O)(=O)C)CC | C15H18O4S
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
reactant | bromine | 1.5 ml | BrBr | Br2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2,2-diethyl-5-{4-(methylsulfonyl)phenyl}-3(2H)-furanone | 4.5 g | BrC=1C(C(OC1C1=CC=C(C=C1)S(=O)(=O)C)(CC)CC)=O | C15H17BrO4S
